US07011838B2
Using 0.50 g of (4-(trifluoromethyl)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 88 mg of sodium hydride (60% in oil), and 0.53 g of 1-iodo-4,4,4-trifluorobutane, and according to the process described in the Production Example 1, there was obtained 0.25 g of 2-(4,4,4-trifluorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (78)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 0.50 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | 1-iodo-4,4,4-trifluorobutane | 0.53 g | ICCCC(F)(F)F | C4H6F3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4,4,4-trifluorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.25 g, Yield: 30% | FC(CCCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F)(F)F | C15H12F6N2
